US07037916B2
A solution of 4-methyl-2-{6-chloro-2-[4-(3-trifluoromethoxyphenyl)-imidazol-1-yl]-pyrimidin-4-ylamino}pentanoic acid (3-ethoxypropyl)amide (145 mg), 4,4,4-trifluoro-1-butanol (135 mg) and NaH (37 mg, 60%) in dimethylsulfoxide (10 ml) was stirred at room temperature for 17 hours. The solution was taken up in water, and extracted three times with ethyl acetate. The etyl acetate layers were combined, washed with brine, dried over magnesium sulfate, filtered, and the solvents were removed in vacuo. Semi-preparative HPLC purification provided 16.2 mg of 4-methyl-2-{6-(4,4,4-trifluorobutoxy)-2-[4-(4-trifluoromethoxyphenyl)-imidazol-1-yl]pyrimidin-4-ylamino}pentanoic acid (3-ethoxypropyl) amide. ESI-MS(m/z)647[M+H]+.

reactant | 4-methyl-2-{6-chloro-2-[4-(3-trifluoromethoxyphenyl)-imidazol-1-yl]-pyrimidin-4-ylamino}pentanoic acid (3-ethoxypropyl)amide | 145 mg | C(C)OCCCNC(C(CC(C)C)NC1=NC(=NC(=C1)Cl)N1C=NC(=C1)C1=CC(=CC=C1)OC(F)(F)F)=O | C25H30ClF3N6O3
reactant | 4,4,4-trifluoro-1-butanol | 135 mg | FC(CCCO)(F)F | C4H7F3O
reactant | NaH | 37 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-methyl-2-{6-(4,4,4-trifluorobutoxy)-2-[4-(4-trifluoromethoxyphenyl)-imidazol-1-yl]pyrimidin-4-ylamino}pentanoic acid (3-ethoxypropyl) amide | 16.2 mg | C(C)OCCCNC(C(CC(C)C)NC1=NC(=NC(=C1)OCCCC(F)(F)F)N1C=NC(=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C29H36F6N6O4
